US05650410
According to the same manner as that described in Example 29, ethyl 2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate was reacted with N-ethyl-N-propylamine to give ethyl 2-(N-ethyl-N-propylaminomethyl)-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate. Colorless prisms, mp. 105°-106° C.

reactant | ethyl 2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | BrCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H24BrNO6
reactant | N-ethyl-N-propylamine | C(C)NCCC | C5H13N
product | ethyl 2-(N-ethyl-N-propylaminomethyl)-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | C(C)N(CCC)CC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C28H36N2O6
